US08222416B2
To a 250 mL round bottomed flask charged with 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclohexyl-ethanol (240 mg, 0.58 mmol) was added a solution of Dess-Martin periodinane in dichloromethane (0.3 M, 3.86 mL, 1.16 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (60 mL). The mixture was extracted with ethyl acetate (250 mL), washed with a saturated aqueous sodium bicarbonate solution (3×50 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to give 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclohexyl-ethanone (240 mg, quant.) as a light yellow solid which was used in the next step without further purification: LC/MS m/e calcd for C22H24N2O4S [M+H]+ 413.51, observed 413.1.

reactant | 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclohexyl-ethanol | 0.58 mmol, 240 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(CC2CCCCC2)O | C22H26N2O4S
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | dichloromethane | 1.16 mmol, 0.3 M, 3.86 mL | ClCCl | CH2Cl2
product | 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclohexyl-ethanone | 240 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(CC2CCCCC2)=O | C22H24N2O4S
